2197-01-08 05:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Hct drop and melena - flex sig (clots but no source seen) - prepped
   with golytely - melena (and tachy with standing) - hct stable but was
   given 3 units - rechecked Hct and given another 2 units - Hct bumped.
   AM Hct lower again (ie; back to where he was prior to 2 transfusions).
   Continues with melena. VSS throughout (HR low 100s, SBP 140s, good SpO2
   on room air). GI followed along closely, held on o/n colonoscopy.
   This am, hct down another 2 points over 3 hours to 29.
   Allergies:
   Aspirin
   bleeding;
   Penicillins
   Hives;
   Ampicillin
   Hives;
   Motrin (Oral) (Ibuprofen)
   bleeding;
   Naproxen
   bleeding;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2197-1-7**] 01:20 PM
   Fentanyl - [**2197-1-7**] 01:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-1-8**] 05:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.8
   HR: 107 (81 - 123) bpm
   BP: 132/54(72) {75/43(51) - 170/94(109)} mmHg
   RR: 14 (9 - 22) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  6,024 mL
                                                                    396 mL
   PO:
                                                                  3,000 mL
             TF:
   IVF:
                                                                  1,611 mL
                                                                    396 mL
   Blood products:
                                                                  1,413 mL
   Total out:
                                                                  7,640 mL
                                                                    700 mL
   Urine:
                                                                    860 mL
                                                                    200 mL
   NG:
   Stool:
                                                                  6,780 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                 -1,616 mL
                                                                   -304 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   GEN
 nad, says he is anxious and thirsty, but denies pain or sob
   CV
 tachycardic, no murmurs
   PULM - ctab
   ABD
 diffusely mildly tender, non-distended
   EXTR
 no edema
   Labs / Radiology
   244 K/uL
   10.7 g/dL
   115 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.7 mEq/L
   16 mg/dL
   105 mEq/L
   137 mEq/L
   31.0 %
   8.0 K/uL
        [image002.jpg]
                            [**2197-1-7**]  03:11 AM
                            [**2197-1-7**]  09:19 AM
                            [**2197-1-7**]  03:08 PM
                            [**2197-1-7**]  06:43 PM
                            [**2197-1-7**]  10:55 PM
                            [**2197-1-8**]  02:58 AM
   WBC
   8.0
   7.8
   7.7
   8.4
   11.3
   8.0
   Hct
   38.7
   33.8
   34.4
   31.2
   35.3
   31.0
   Plt
   298
   329
   276
   [**Telephone/Fax (3) 12361**]
   Cr
   1.0
   1.0
   0.9
   Glucose
   104
   116
   115
   Other labs: PT / PTT / INR:14.0/34.8/1.2, Ca++:7.0 mg/dL, Mg++:1.7
   mg/dL, PO4:2.9 mg/dL
   AXR: Stool filling of the ascending colon, air filling of multiple
   non-distended or slightly distended small bowel loops. Sparse small
   air-fluid
   levels. No evidence of free air, no evidence of pathological
   calcifications.
   EGD [**1-7**];
   Clotted blood was seen in the colon. The distal polypectomy site could
   not be located due to clot and stool, however there appeared to be less
   blood more proximal to the decending colon suggesting that this is the
   bleeding source. No active bleeding was seen.
   Recommendations: serial hematocrits; golytely prep for colonoscopy now.
   If pt rebleeds, colonoscopy once prep is complete. If no rebleeding
   will follow conservatively
   Assessment and Plan
 .H/O GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED,
   GIB)
   77M s/p colonoscopy a day ago who presents with BRBPR without changes
   in hemodynamics or HCT. At that procedure he underwent 7 polypectomies
   and was noted to have mild hemorrhoids. He has a history of easy
   bleeding, per the patient. He was admitted to the ICU for colonoscopy,
   but is refusing bowel prep for now and wants to see if his bleeding
   will stop spontaneously.
   .
   # LGIB: Likely due to recent polypectomies. S/P flex sig on [**1-7**],
   transfused multiple units and Hct relatively stable but after bump it
   seems to drift back down post-transfusion. Prepped with go-lytely o/n.
   Hct dropped again post-transfusion this AM.
   - colonoscopy later this morning
   - transfuse 3 units pRBC now
   - check post-transfusion Hct
   - check 5pm CBC, coags, calcium
   - add-on albumin to AM labs to correct Ca; give 4g IV calcium gluconate
   now
   - f/u GI recs and post-colonoscopy recs
   - Access with an 18g and 16g and 20g PIVs
   - Type and screen up to date
   - NPO for now
   .
   # Hypertension: Pt anxious on admission with SBP>170. Likely
   combination of stress plus chronic hypertension. Improved (albeit with
   concern could be BP heading in hypotensive direction sign).
   - Holding aggressive BP control in the context of bleeding
   - Will use hydralazine for SBP>170 with goal to maintain pressure
   around 140
   - Trend for now and treat as appropriate
   - Hold home lisinopril
   .
   # Hyponatremia: Resolved. Likely hypovolemic hyponatremia from bowel
   prep; s/p NS infusion
   .
   # Depression and anxiety: Continue home Prozac 20mg PO daily
   .
   # BPH: Continue home finasteride 5mg PO daily
   .
   # FEN: IVF
 75cc/hr NS, replete electrolytes (closely watch Ca in
   setting of multiple blood transfusions), NPO for now
   # Prophylaxis: Pneumoboots, PPI
   # Access: peripherals 18g and 16g and 20g
   # Communication: Patient
   # Code:  Full
   # Disposition: ICU for now
   ICU Care
   Lines:
   16 Gauge - [**2197-1-7**] 02:48 AM
   18 Gauge - [**2197-1-7**] 11:15 AM